US06251919B1
(S)-1-{4-[(4-Benzyloxy-phenyl)-(3-methyl-but-2-enyl)-amino]-piperidin-1-yl}-2-hydroxy-4-methyl-pentan-1-one:
(4-Benzyloxy-phenyl)-(3-methyl-but-2-enyl)-piperidin-4-yl-amine (Ic) (0.89 g, 2.54 mmol) was dissolved in DMF (17 mL) and treated with N,N-diisopropyletbylamine (1.77 mL, 10.17 mmol), L-2-hydroxyisocaproic acid (0.34 g, 2.54 mmol), and HBTU (0.96 g, 2.54 mmol). The reaction was stirred for 3 hours, then diluted with EtOAc (200 mL), washed with saturated bicarbonate solution and brine, dried over Na2SO4, and concentrated. The residue was chromatographed on silica gel eluting with 4% MeOH/CH2Cl2 to give 0.58 g (49%) of the desired product.

reactant | (4-Benzyloxy-phenyl)-(3-methyl-but-2-enyl)-piperidin-4-yl-amine | 2.54 mmol, 0.89 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N(C1CCNCC1)CC=C(C)C | C23H30N2O
reactant | L-2-hydroxyisocaproic acid | 2.54 mmol, 0.34 g | CC(C)C[C@@H](C(=O)O)O | C6H12O3
reactant | HBTU | 2.54 mmol, 0.96 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 17 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | (S)-1-{4-[(4-Benzyloxy-phenyl)-(3-methyl-but-2-enyl)-amino]-piperidin-1-yl}-2-hydroxy-4-methyl-pentan-1-one | 0.58 g, 49% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N(C1CCN(CC1)C([C@H](CC(C)C)O)=O)CC=C(C)C | C29H40N2O3
